US09334269B2
To a solution of 3-(1,3-dioxoisoindolin-2-yl)propyl 4-methylbenzenesulfonate (3 g, 8.35 mmol) in DMF (25 mL, 3 mL/mmol) was added potassium carbonate (1.8 g, 12.5 mmol) and 4-trifluoromethoxyphenol (1.5 g, 8.35 mmol) and the reaction was heated at 120° C. for 2 h. The reaction mixture was concentrated under reduced pressure and extracted with EtOAc (2×60 mL). The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. Purification by silica gel column chromatography provided 2-(3-(4-(trifluoromethoxy)phenoxy) propyl) isoindoline-1,3-dione (1 g, 33%) as a solid. Observed mass (M+1): 366.0.

reactant | 3-(1,3-dioxoisoindolin-2-yl)propyl 4-methylbenzenesulfonate | 8.35 mmol, 3 g | CC1=CC=C(C=C1)S(=O)(=O)OCCCN1C(C2=CC=CC=C2C1=O)=O | C18H17NO5S
reactant | potassium carbonate | 12.5 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-trifluoromethoxyphenol | 8.35 mmol, 1.5 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-(3-(4-(trifluoromethoxy)phenoxy) propyl) isoindoline-1,3-dione | 1 g, 33% | FC(OC1=CC=C(OCCCN2C(C3=CC=CC=C3C2=O)=O)C=C1)(F)F | C18H14F3NO4
